US08383631B2
3-amino-1-[{4-(2,4-dimethylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 4)
A target compound (102.8 mg, 0.211 mmol, 55.7%) was yielded as white solid in the same manner as Example 1 by reacting 1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one (130 mg, 0.379 mmol) with potassium carbonate (57.6 mg, 0.417 mmol) and 3-chloro-1-{4-(2,4-dimethylphenyl)piperazin-1-yl}propan-1-one (111.7 mg, 0.398 mmol).

reactant | 1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one | 0.379 mmol, 130 mg | C(C)(C)(C)OC(=O)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C)=O)N | C18H22N4O3
reactant | potassium carbonate | 0.417 mmol, 57.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-{4-(2,4-dimethylphenyl)piperazin-1-yl}propan-1-one | 0.398 mmol, 111.7 mg | ClCCC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C)C | C15H21ClN2O
product | 3-amino-1-[{4-(2,4-dimethylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)C2=C(C=C(C=C2)C)C)=O | C28H34N6O2
